US09028694B2
28.4 g of p-dibromobenzene was dissolved in diethyl ether, and 51.3 g n-butyl lithium was added to react with p-dibromobenzene at 0° C. Then, 31.2 g of (−)-pinanyldimethylsilyl chloride was added and reacted. A mixture obtained after a routine process was purified by distillation under reduced pressure to obtain 1-bromo-4-(−)-pinanyldimethylsilylbenzene. After dissolving 34.85 g of the obtained 1-bromo-4-(−)-pinanyldimethylsilylbenzene in diethyl ether, 42.4 g of n-butyl lithium and 6.9 g of dimethylformamide were successively added and the mixture was reacted. After processing by a routine method, the reaction mixture was purified by silica gel column chromatography to obtain 27.4 g of 4-(−)-pinanyldimethylsilylbenzaldehyde. After dissolving the obtained aldehyde in 200 ml of tetrahydrofuran, the solution was added to a solution of 36.9 g of methyltriphenyl iodide and 40.0 g of n-butyl lithium to obtain (−)-PSSt. The (−)-PSSt was purified by column chromatography using hexane as a developing solvent to obtain 15.0 g of purified (−)-PSSt. The structure was confirmed using NMR and IR.

reactant | 1-bromo-4-(−)-pinanyldimethylsilylbenzene | 34.85 g | BrC1=C(C=C(C=C1)C12C(CCC(C1(C)C)C2)C)[SiH](C)C | C18H27BrSi
reactant | n-butyl lithium | 42.4 g | C(CCC)[Li]
reactant | dimethylformamide | 6.9 g | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(−)-pinanyldimethylsilylbenzaldehyde | 27.4 g | C12(C(CCC(C1(C)C)C2)C)C2=CC(=C(C=O)C=C2)[SiH](C)C | C19H28OSi
